US06451796B1
2-Hydroxy-3-benzylquinoxaline
The mixture of 1,2-phenylenediamine (8.64 g), phenylpyruvic acid (13.1 g), ethanol (100 ml) and 2N hydrochloric acid (100 ml) was stirred for 1.5 hours at 50° C. The reaction mixture was cooled to room temperature. The precipitated crystals were obtained by filtration. The crystals were washed with ethanol and dried to give the title compound (15.05 g) having the following physical data.

reactant | 1,2-phenylenediamine | 8.64 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | phenylpyruvic acid | 13.1 g | C1(=CC=CC=C1)CC(C(=O)O)=O | C9H8O3
reactant | hydrochloric acid | 2N, 100 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Hydroxy-3-benzylquinoxaline | 15.05 g | OC1=NC2=CC=CC=C2N=C1CC1=CC=CC=C1 | C15H12N2O
